US03944596
In a 1-L three-necked flask fitted with a mechanical stirrer and a reflux condenser protected by a calcium chloride drying tube, are placed a solution of 60.5 g of N-chlorocaprolactam in 400 ml of benzene and 75.5 g of methyl 3-methyl-dihydroresorcylate, prepared from 5-chloropentan-3-one (R. B. Woodward et al., J.Am.Chem.Soc. 74, 4223 (1952)) and dimethyl malonate; m.p. 126.5° - 127.9° C. The reaction mixture is stirred at reflux temperature for 8 hours, then cooled to 30° C, transferred to a separatory funnel and washed successively with water, 0.2 molar sodium carbonate solution and again with water. The organic layer is then cooled to 5° C and extracted with cold 0.4N sodium hydroxide solution. The aqueous solution is acidified with a slight excess of 15% hydrochloric acid. The temperature is maintained at 0° C throughout the acidification. The solid product is filtered off, washed thoroughly with water and dried, yielding 63.5 g (85%) of methyl 3-methyl-resorcylate (identified by NMR, IR and mass spectral analysis). M.p. 130.5° - 131.6° C).

reactant | N-chlorocaprolactam | 60.5 g | ClN1C(CCCCC1)=O | C6H10ClNO
reactant | 5-chloropentan-3-one | ClCCC(CC)=O | C5H9ClO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | methyl 3-methyl-resorcylate | 63.5 g, 85% | CC1=C(C=CC(=C1O)C(=O)OC)O | C9H10O4
